US04053637
1-dimethylamino-3,3-diphenylcyclopentane [PUB 112 ]
1-dimethylamino-3-(4-chlorophenyl)-3-phenylcyclopentane [PUN 123] Hydrochloride m.p. 168°-170° C.

reactant | 1-dimethylamino-3-(4-chlorophenyl)-3-phenylcyclopentane | CN(C1CC(CC1)(C1=CC=CC=C1)C1=CC=C(C=C1)Cl)C | C19H22ClN
reactant | Hydrochloride | Cl | ClH
product | 1-dimethylamino-3,3-diphenylcyclopentane | CN(C1CC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C19H23N
